US05521193
Hexahydro-2,6-methano-1H-pyrrolizin-1-one (N. Speckamp, Tetrahedron, 27, 3143 (1971)), 1.45 g, 11.0 mmol, was dissolved in a 1:1 solution of pyridine/ethanol (20 mL). O-Benzyl hydroxylamine hydrochloride (1.85 g, 11.6 mmol) was added and the solution was stirred for 20 hours at room temperature. Removal of the solvents in vacuo afforded a solid which was purified by chromatography on silica gel eluting with 10% MeOH (NH3)/CHCl3 to give hexahydro-1-[(phenylmethoxy) imino]-2,6-methano-1H-pyrrolizine.

reactant | Hexahydro-2,6-methano-1H-pyrrolizin-1-one | C1(C2CN3CC(CC13)C2)=O | C8H11NO
reactant | O-Benzyl hydroxylamine hydrochloride | 11.6 mmol, 1.85 g | Cl.C(C1=CC=CC=C1)ON
solvent | pyridine ethanol | 20 mL | N1=CC=CC=C1.C(C)O
product | hexahydro-1-[(phenylmethoxy) imino]-2,6-methano-1H-pyrrolizine | C1(=CC=CC=C1)CON=C1C2CN3CC(CC13)C2 | C15H18N2O
